US04863951
4-(2,3-Dihydro-5-benzofuranyl)butanoic acid
300 g of zinc and 30 g of mercuric chloride are added with stirring to a mixture containing 510 ml of concentrated hydrochloric acid in 240 ml of water, 141 g of 4-(2,3-dihydro-5-benzofuranyl)-4-oxobutanoic acid obtained above and 300 ml of toluene. The reaction medium is brought to reflux for 6 hours. 150 ml of concentrated hydrochloric acid are added and refluxing is continued overnight.

reactant | hydrochloric acid | 510 ml | Cl | ClH
reactant | 4-(2,3-dihydro-5-benzofuranyl)-4-oxobutanoic acid | 141 g | O1CCC2=C1C=CC(=C2)C(CCC(=O)O)=O | C12H12O4
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | water | 240 ml | O | H2O
catalyst | zinc | 300 g | [Zn] | Zn
product | 4-(2,3-Dihydro-5-benzofuranyl)butanoic acid | O1CCC2=C1C=CC(=C2)CCCC(=O)O | C12H14O3
